US05840892
Preparation of methyl 3-(4,6-dimethoxy-2-pyrimidinyloxy)-2-pyridinecarboxylate
1.75 g (10 mmol) of 2-chloro-4,6-dimethoxypyrimidine, 1.53 g (10 mmol) of methyl 3-hydroxy-2-pyridinecarboxylate and 0.104 g (1.0 mmol) of sodium methanesulfinate were heated in the presence of 2.17 g (15 mmol) of potassium carbonate in 6 ml of N,N-dimethylformamide to 100° C. with stirring. After 5 hours, the solvent was removed in a rotary evaporator at 60° C./20 mbar. The residue was purified by chromatography on a silica gel column (eluent hexane/ethyl acetate 4:1). The title product was obtained from the product fraction in the form of a yellowish oil in a yield of 1.94 g (61 percent of theory) (GC content 92.3 percent). Other data concerning the title compound was:

reactant | 2-chloro-4,6-dimethoxypyrimidine | 10 mmol, 1.75 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | methyl 3-hydroxy-2-pyridinecarboxylate | 10 mmol, 1.53 g | OC=1C(=NC=CC1)C(=O)OC | C7H7NO3
reactant | sodium methanesulfinate | 1.0 mmol, 0.104 g | CS(=O)[O-].[Na+]
reactant | potassium carbonate | 15 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | methyl 3-(4,6-dimethoxy-2-pyrimidinyloxy)-2-pyridinecarboxylate | COC1=NC(=NC(=C1)OC)OC=1C(=NC=CC1)C(=O)OC | C13H13N3O5
